US04111923
Nα -t-butoxycarbonyl-D-valyl-L-leucyl-L-arginyl-L-proline N-ethylamide hydrochloride is prepared from 3.8 g., 6.5 mmol, of Nα -benzyloxycarbonyl-L-leucyl-L-arginyl-L-proline N-ethylamide hydrochloride by de-protection by the hydrogenation procedure as described in Example 2, to yield 2.9 g., 6.5 mmol, of L-leucyl-L-arginyl-L-proline N-ethylamide dihydrochloride as a glassy solid. This material is dissolved in 25 ml. of dimethylformamide and treated with 2.2 g., 6.5 mmol, of Nα -t-butoxycarbonyl-D-valine p-nitrophenyl ester. The reaction is held at room temperature for four days and is then evaporated to dryness under reduced pressure. The residue is dissolved in 10 ml. of methanol and the product precipitated by the addition of 500 ml. of anhydrous ether. The solid product is purified by chromatography over silica gel with toluene-methanol (70:30); 1.1 g.; [α]D23 -53.5° (c 1.0, methanol).

reactant | Nα -benzyloxycarbonyl-L-leucyl-L-arginyl-L-proline N-ethylamide hydrochloride | Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CCCNC(N)=N)=O)=O
reactant | L-leucyl-L-arginyl-L-proline N-ethylamide dihydrochloride | Cl.Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](N)CC(C)C)=O)CCCNC(N)=N)=O)=O
reactant | Nα -t-butoxycarbonyl-D-valine p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@H](NC(=O)OC(C)(C)C)C(C)C)=O | C16H22N2O6
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα -t-butoxycarbonyl-D-valyl-L-leucyl-L-arginyl-L-proline N-ethylamide hydrochloride | Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC([C@H](NC(=O)OC(C)(C)C)C(C)C)=O)CC(C)C)=O)CCCNC(N)=N)=O)=O | InChI=1S/C29H54N8O6.ClH/c1-9-32-24(39)21-13-11-15-37(21)26(41)19(12-10-14-33-27(30)31)34-23(38)20(16-17(2)3)35-25(40)22(18(4)5)36-28(42)43-29(6,7)8;/h17-22H,9-16H2,1-8H3,(H,32,39)(H,34,38)(H,35,40)(H,36,42)(H4,30,31,33);1H/t19-,20-,21-,22+;/m0./s1
